US07645771B2
To a solution of methyl 2-chloro-3-(chlorosulfonyl)benzoate (608 mg, 2.26 mmol) and K2CO3 (770 mg, 5.6 mmol) in 10 mL benzene was added ethylamine (5.6 mL, 11.2 mmol). Purification of the product provided methyl 2-chloro-3-[(ethylamino)sulfonyl]benzoate (335 mg, 53%) as a solid. 1H NMR (400 MHz, CDCl3), δ 8.24 (dd, 1H, J=8.0, 1.7 Hz), 7.90 (dd, 1H, J=7.8, 1.7 Hz), 7.47 (t, 1H, J=7.8 Hz), 5.14 (t, 1H, J=5.9 Hz), 3.94 (s, 3H), 2.98 (qd, 2H, J=7.3, 6.0 Hz), 1.09 (t, 3H, J=7.2 Hz); ESI-MS 278 (M+H), 300 (M+Na). Methyl 2-chloro-3-[(ethylamino)sulfonyl]benzoate was hydrolyzed using aqueous NaOH to provide 2-chloro-3-[(ethylamino)sulfonyl]benzoic acid as a solid, which was used without further purification. ESI-MS 264 (M+H), 286 (M+Na).

reactant | methyl 2-chloro-3-(chlorosulfonyl)benzoate | 2.26 mmol, 608 mg | ClC1=C(C(=O)OC)C=CC=C1S(=O)(=O)Cl | C8H6Cl2O4S
reactant | K2CO3 | 5.6 mmol, 770 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylamine | 11.2 mmol, 5.6 mL | C(C)N | C2H7N
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | methyl 2-chloro-3-[(ethylamino)sulfonyl]benzoate | 335 mg, 53% | ClC1=C(C(=O)OC)C=CC=C1S(=O)(=O)NCC | C10H12ClNO4S
